US05438052
5-Bromo-2,2-diphenyl-1,3-benzodioxol (70 g) in 440 ml of tetrahydrofuran are treated at -78° C. with 125 ml of a 1.6M solution of butyllithium in n-hexane. After 10 minutes 40 ml of dimethylformamide are added thereto and the mixture is left to warm to -10° C. Thereafter, 70 ml of 20% aqueous phosphoric acid and 500 ml of ethyl acetate are added, the organic phase is separated and evaporated. The residue is recrystallized from 130 ml of ethanol. 49.5 g of 2,2-diphenyl-1,3-benzodioxol-5-carbaldehyde are obtained.

reactant | 5-Bromo-2,2-diphenyl-1,3-benzodioxol | 70 g | BrC1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H13BrO2
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | phosphoric acid | 70 ml | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2,2-diphenyl-1,3-benzodioxol-5-carbaldehyde | 49.5 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C=O)C2=CC=CC=C2 | C20H14O3
